US06211215B1
In substantially the same manner as in Working Example 48, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-[(E)-2-phenylethenyl]thiazole to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]thiazole. The yield was 58%. Recrystallization from ethyl acetate gave colorless prisms, mp 129-130° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-[(E)-2-phenylethenyl]thiazole | ClCC=1N=C(SC1)\C=C\C1=CC=CC=C1 | C12H10ClNS
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]thiazole | yield was 58% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(SC2)\C=C\C2=CC=CC=C2)C=C1 | C24H23N3OS
